US08835631B2
(3) Synthesis of 2-(2,6-dimethylpiperazin-1-yl)pyrimidine hydrochloride
3,5-Dimethyl-4-pyrimidin-2-ylpiperazine-1-carboxylic acid tert-butyl ester (294 mg) was dissolved in ethanol (2 ml), 4N hydrochloric acid (ethyl acetate solution, 2 ml) was added and the mixture was stirred at room temperature for 4 hr. The solvent was evaporated, and ethyl acetate (3 ml) was added to the obtained residue. The solid insoluble in ethyl acetate was collected by filtration and dried to give the title compound (281 mg).

reactant | 3,5-Dimethyl-4-pyrimidin-2-ylpiperazine-1-carboxylic acid tert-butyl ester | 294 mg | C(C)(C)(C)OC(=O)N1CC(N(C(C1)C)C1=NC=CC=N1)C | C15H24N4O2
reactant | hydrochloric acid | 4N, 2 ml | Cl | ClH
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 2-(2,6-dimethylpiperazin-1-yl)pyrimidine hydrochloride | 281 mg | Cl.CC1N(C(CNC1)C)C1=NC=CC=N1 | InChI=1S/C10H16N4.ClH/c1-8-6-11-7-9(2)14(8)10-12-4-3-5-13-10;/h3-5,8-9,11H,6-7H2,1-2H3;1H
